US08283353B2
4′-{[4-(trans-4-formylcyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
To a mixture of 4′-({4-[trans-4-(hydroxymethyl)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile (5.3 g), triethylamine (7.7 mL) and dimethyl sulfoxide (25 mL) was added a solution (40 mL) of sulfur trioxide-pyridine complex (5.3 g) in dimethyl sulfoxide at room temperature, and the mixture was stirred for 2 hr. The reaction mixture was poured into 1 N hydrochloric acid, and the mixture was extracted with ethyl acetate. The obtained ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the title compound as a colorless solid (5 g, 95%).

reactant | 4′-({4-[trans-4-(hydroxymethyl)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 5.3 g | OC[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C29H31N5O2
reactant | triethylamine | 7.7 mL | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 25 mL | CS(=O)C | C2H6OS
product | 4′-{[4-(trans-4-formylcyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 5 g, 95% | C(=O)[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C29H29N5O2
